US07816522B2
(82c) {2-(3,7-dimethoxy-2,3-dihydrobenzofuran-5-yl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene}carbamic acid methyl ester
After adding 201 mg of 1,8-bis(dimethylamino)naphthalene and 138 mg of trimethyloxonium tetrafluoroborate to a solution of 150 mg of {2-(3-hydroxy-7-methoxy-2,3-dihydrobenzofuran-5-yl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene}carbamic acid methyl ester in 3 ml of acetonitrile at 0° C., the mixture was stirred for 2 hours. Saturated aqueous sodium hydrogencarbonate was added to the reaction mixture, and extraction was performed with ethyl acetate. After washing the organic layer with water and saturated brine, it was dried over anhydrous magnesium sulfate. The desiccating agent was filtered off and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate-heptane) to give the title compound (80 mg) as a yellow oil.

reactant | 1,8-bis(dimethylamino)naphthalene | 201 mg | CN(C1=CC=CC2=CC=CC(=C12)N(C)C)C | C14H18N2
reactant | trimethyloxonium tetrafluoroborate | 138 mg | F[B-](F)(F)F.C[O+](C)C
reactant | {2-(3-hydroxy-7-methoxy-2,3-dihydrobenzofuran-5-yl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene}carbamic acid methyl ester | 150 mg | COC(N=C(C(=NC1=CC=C(C=C1)C1=NOC(=N1)C)C=1C=C(C2=C(C(CO2)O)C1)OC)SC)=O | C23H22N4O6S
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | {2-(3,7-dimethoxy-2,3-dihydrobenzofuran-5-yl)-2-[4-(5-methyl-[1,2,4]oxadiazol-3-yl)phenylimino]-1-methylsulfanylethylidene}carbamic acid methyl ester | 80 mg | COC(N=C(C(=NC1=CC=C(C=C1)C1=NOC(=N1)C)C=1C=C(C2=C(C(CO2)OC)C1)OC)SC)=O | C24H24N4O6S
